US06869729B1
2,5-dicarbethoxy-3,4-dihydroxythiophene.
Diethyl oxalate (6.58 g. 45 mmol) was added to 2.2° thiobisacetate ethyl ester (4.66 g. 23 mmol) to produce a yellow-orange solution. A solution of Na (1.56 g, 68 mmol) in EtOH (24 mL) was added to produce a white/yellow precipitate, this was mixed well for 10 minutes. H2O (50 mL) was added to the reaction mass with cooling in an ice bath. Concentrated HCl was added dropwise until acidified. This was allowed to stand in the refrigerator for 12 days. At this point a cold filtration was done to isolate a white solid.

reactant | Diethyl oxalate | 45 mmol, 6.58 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | thiobisacetate ethyl ester | 23 mmol, 4.66 g | C(C)OC(CSCC(=O)[O-])=O
reactant | H2O | 50 mL | O | H2O
reactant | HCl | Cl | ClH
reactant | EtOH | 24 mL | CCO | C2H6O
product | 2,5-dicarbethoxy-3,4-dihydroxythiophene | C(=O)(OCC)C=1SC(=C(C1O)O)C(=O)OCC | C10H12O6S
